US07550465B2
Intermediate A28: 4-chloro-8-difluoromethoxy-3-methyl-1-propyl-imidazo[1,5-a]pyrido[3,2-e]pyrazine
5.51 g (0.02 mol) 4-chloro-3-methyl-1-propyl-9H-imidazo[1,5-a]pyrido[3,2-e]pyrazin-8-ol (Intermediate A25) and 2 g (0.05 mol) sodium hydroxide were dissolved in 20 ml dimethylformamide. After 10 min stirring 2.53 ml (0.03 mol) chlorodifluoroacetic acid was added dropwise. The mixture was heated 5 h at 150° C. bath temperature with stirring. After cooling the product was extracted with ethyl acetate (200 ml, 300 ml), the combined organic phases were washed with water (2×100 ml), the organic phase was dried over sodium sulfate, filtered off, and evaporated to dryness.

reactant | 4-chloro-3-methyl-1-propyl-9H-imidazo[1,5-a]pyrido[3,2-e]pyrazin-8-ol | 0.02 mol, 5.51 g | ClC1=C(CN(C2=C1N=CC=1N2CN(C1)O)CCC)C | C13H17ClN4O
reactant | sodium hydroxide | 0.05 mol, 2 g | [OH-].[Na+]
reactant | chlorodifluoroacetic acid | 0.03 mol, 2.53 ml | ClC(C(=O)O)(F)F | C2HClF2O2
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 4-chloro-8-difluoromethoxy-3-methyl-1-propyl-imidazo[1,5-a]pyrido[3,2-e]pyrazine | ClC1=C(CN(C2=C1N=CC=1N2CN(C1)OC(F)F)CCC)C | C14H17ClF2N4O
